US07314885B2
1-Methanesulfonyl-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester:
To a solution of 4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester (2.0 g, 10.86 mmol) in anhydrous THF (54 mL) was added NaH (650 mg, 60% dispersion, 16.25 mmol) at room temperature. The suspension was stirred at room temperature for 30 minutes before the addition of methanesulfonyl chloride (1.87 g, 16.32 mmol). The reaction mixture was stirred at room temperature over night. Water was carefully added to the reaction solution, and the resulting mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with aqueous NaHCO3 solution and brine, dried over MgSO4, filtered, and evaporated under reduced pressure to give a white solid (2.4 g, 84%). The crude product was used directly without purification. 1H NMR (500 MHz, DMSO-d6) δ8.36 (s, 1H), 7.60 (s, 1H), 4.33 (q, 2H), 4.02 (s, 3H), 2.51 (DMSO), 1.35 (t, 3H) ppm. MS (ES−): m/e=183.1 (M−Ms); LC/Method A/3.64 min.

reactant | 4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester | 10.86 mmol, 2.0 g | C(C)OC(=O)C=1NC=C(C1)[N+](=O)[O-] | C7H8N2O4
reactant | NaH | 16.25 mmol, 650 mg | [H-].[Na+]
reactant | methanesulfonyl chloride | 16.32 mmol, 1.87 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 1-Methanesulfonyl-4-nitro-1H-pyrrole-2-carboxylic acid ethyl ester | 2.4 g, 84% | C(C)OC(=O)C=1N(C=C(C1)[N+](=O)[O-])S(=O)(=O)C | C8H10N2O6S
